US05550260
Ether (125 ml), t-butanol (13.2 ml) and methyltriphenylphosphonium bromide (50 g) were mixed with stirring at room temperature, then potassium t-butoxide (25.7 g) was added portionwise to the mixture and then the resulting solution was stirred for 5 hours at the same temperature. To the solution was added a solution of (RS)-3-methyl-2-(2-propenyl)-4-hydroxy-cyclopent-2-ene-1-one (26.0 g) in ether (25 ml) under ice-water cooling and the resulting reaction mixture was stirred at the same temperature for 2 hours and then for 6 hours at room temperature. The reaction solution was poured into a saturated aqueous solution of sodium dihydrogenphosphate, and the product was extracted with ether. The obtained ether layer was washed with brine and dried over anhydrous magnesium sulfate. Then the filtered solution was evaporated. The obtained oily residue was then subjected to silica gel column chromatography to afford (RS)-2-methyl-4-methylidene3-(2-propenyl)cyclopent-2-ene-1-ol (10.0 g) in a yield of 40%.

reactant | t-butanol | 13.2 ml | C(C)(C)(C)O | C4H10O
reactant | potassium t-butoxide | 25.7 g | CC(C)([O-])C.[K+]
reactant | (RS)-3-methyl-2-(2-propenyl)-4-hydroxy-cyclopent-2-ene-1-one | 26.0 g | CC1=C(C(CC1O)=O)CC=C | C9H12O2
reactant | sodium dihydrogenphosphate | P(=O)(O)(O)[O-].[Na+]
catalyst | methyltriphenylphosphonium bromide | 50 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | ether | 25 ml | CCOCC | C4H10O
solvent | Ether | 125 ml | CCOCC | C4H10O
product | (RS)-2-methyl-4-methylidene3-(2-propenyl)cyclopent-2-ene-1-ol | 10.0 g, yield of 40% | CC=1C(CC(C1CC=C)=C)O | C10H14O
